US04886794
α-(4-Fluorophenyl)-α-(4-piperidinyl)-2-pyridinemethanol
To a stirred solution of 36.3 g (0.23 mol) of 2-bromopyridine in 500 mL of anhydrous tetrahydrofuran (THF) at -65° C. was added 88 mL (0.22 mol) of a commercial solution of 2.5M n-butyllithium in hexane at such a rate that the temperature did not exceed -60° C. The dark solution was stirred at -65° C. for 1 hr and then treated dropwise with a solution of 24.9 g (0.1 mol) of 1-acetyl-4-(p-fluorobenzoyl)piperidine (See Preparation 1 of U.S. Pat. No. 4,151,285, col. 4, lines 10-30, herein incorporated by reference) in 250 mL of THF at such a rate that the temperature did not exceed -60° C. The mixture was stirred for 1 hr at -65° C. and overnight at ambient temperature. The dark mixture was poured into 2 liters of a saturated ammonium chloride solution. The layers were separated and the aqueous layer was extracted once with a 500-mL portion of methylene chloride. The combined organic layers were washed successively with 500 mL of water, 500 mL of a 4% sodium hydroxide solution, 250 mL of water, and 250 mL brine.

reactant | 2-bromopyridine | 0.23 mol, 36.3 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | 1-acetyl-4-(p-fluorobenzoyl)piperidine | 0.1 mol, 24.9 g | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C14H16FNO2
reactant | ammonium chloride | 2 liters | [Cl-].[NH4+]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 250 mL | O1CCCC1 | C4H8O
product | α-(4-Fluorophenyl)-α-(4-piperidinyl)-2-pyridinemethanol | FC1=CC=C(C=C1)C(O)(C1=NC=CC=C1)C1CCNCC1 | C17H19FN2O
